US09029356B2
Preparation of 4-(4-methylpiperazin-1-yl)-2-[(1-methylpiperidin-4-yl)(trifluoroacetyl)amino]benzoic acid dihydrochloride
tert-Butyl 4-(4-methylpiperazin-1-yl)-2-[(1-methylpiperidin-4-yl)(trifluoroacetyl)amino]benzoate (1.18 g, 2.435 mmol) was dissolved in dry dichloromethane (3 mL) under nitrogen atmosphere. A 4 M solution of HCl in dioxane (9.1 mL, 36.4 mmol, 15 eq) was then added dropwise and the mixture was stirred for 1.5 hours. A sticky solid was formed. 5 more equivalents of HCl were added and the mixture was stirred for 2 more hours. The solid was filtered, washed with DCM (10 mL) and diethyl ether (10 mL) and dried under vacuum at 60° C. for 2 hours. 1.06 g of title compound were obtained as a beige powder (87% yield).

reactant | tert-Butyl 4-(4-methylpiperazin-1-yl)-2-[(1-methylpiperidin-4-yl)(trifluoroacetyl)amino]benzoate | 2.435 mmol, 1.18 g | CN1CCN(CC1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)N(C(C(F)(F)F)=O)C1CCN(CC1)C | C24H35F3N4O3
reactant | HCl | Cl | ClH
reactant | dioxane | 36.4 mmol, 9.1 mL, 15 eq | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 4-(4-methylpiperazin-1-yl)-2-[(1-methylpiperidin-4-yl)(trifluoroacetyl)amino]benzoic acid dihydrochloride | 1.06 g | Cl.Cl.CN1CCN(CC1)C1=CC(=C(C(=O)O)C=C1)N(C(C(F)(F)F)=O)C1CCN(CC1)C | InChI=1S/C20H27F3N4O3.2ClH/c1-24-7-5-14(6-8-24)27(19(30)20(21,22)23)17-13-15(3-4-16(17)18(28)29)26-11-9-25(2)10-12-26;;/h3-4,13-14H,5-12H2,1-2H3,(H,28,29);2*1H
